US07947834B2
0.2 g of 1-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-1,2,3,4-tetrahydroquinoxaline, dissolved in 22 ml of dichloromethane, is introduced into a 100 ml round-bottomed flask. 0.29 ml of N-butyraldehyde is subsequently added, followed by 0.27 g of sodium triacetoxyborohydride, and the reaction mixture is stirred for eighteen hours. A saturated aqueous sodium hydrogencarbonate solution is added and then the aqueous phase is extracted three times with dichloromethane. The organic phases are combined and dried over sodium sulfate and the solvent is evaporated under reduced pressure. The residue is chromatographed on silica gel with a dichloromethane/methanol 95/5 mixture. 0.032 g of 1-butyl-4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-1,2,3,4-tetrahydroquinoxaline is obtained.

reactant | 1-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-1,2,3,4-tetrahydroquinoxaline | 0.2 g | N1=CC(=CC=C1)C1CN(CC1)C(=O)N1CCNC2=CC=CC=C12 | C18H20N4O
reactant | N-butyraldehyde | 0.29 ml | C(CCC)=O | C4H8O
reactant | sodium triacetoxyborohydride | 0.27 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 22 ml | ClCCl | CH2Cl2
product | 1-butyl-4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-1,2,3,4-tetrahydroquinoxaline | 0.032 g | C(CCC)N1CCN(C2=CC=CC=C12)C(=O)N1CC(CC1)C=1C=NC=CC1 | C22H28N4O
